US05206240
6-Nitro-1'-(2-(2-pyridyl)ethyl)-spiro[4H-3,1-Benzoxathiin-2,4'-piperidine]
2-Mercapto-5-nitrobenzyl alcohol (150 mg, 0.81 mmol) and 208 mg (0.80 mm) of N-[2-(2'-pyridylethyl]-4-piperidone was dissolved in 5 mL of CHCl3. HCl Gas was bubbled in to saturate the solution, the mixture stirred at 25° C. for 2 days, then diluted with water and the pH adjusted to 10.0 with 40% aqueous NaOH. Extraction with CHCl3 and drying the organic phase (Na2SO4) gave after concentration and recrystallization from ethyl acetate 75 mg of an orange solid.

reactant | 2-Mercapto-5-nitrobenzyl alcohol | 0.81 mmol, 150 mg | SC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C7H7NO3S
reactant | 2-(2'-pyridylethyl]-4-piperidone | N1=C(C=CC=C1)CCC1NCCC(C1)=O | C12H16N2O
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Nitro-1'-(2-(2-pyridyl)ethyl)-spiro[4H-3,1-Benzoxathiin-2,4'-piperidine] | [N+](=O)([O-])C=1C=CC2=C(COC3(CCN(CC3)CCC3=NC=CC=C3)S2)C1 | C19H21N3O3S
